US08685977B2
2,5-difluoro-4-(2-methoxy-5-fluorophenoxy)benzonitrile
To a solution of 2-methoxy-5-fluorophenol (226 mg, 1.59 mmol) in dimethylsulfoxide (10 mL) was added 2,4,5-trifluorobenzonitrile (250 mg, 1.59 mmol) and potassium carbonate (220 mg, 1.59 mmol) This suspension was stirred for 18 hours at room temperature. The reaction mixture was poured in saturated aqueous ammonium chloride solution (20 mL), and extracted with dichloromethane (3×40 mL). The combined organic layers were dried over sodium sulphate, and evaporated to afford the title compound as a clear oil (444 mg, 100%). This was used in the next reaction with no further purification.

reactant | 2-methoxy-5-fluorophenol | 1.59 mmol, 226 mg | COC1=C(C=C(C=C1)F)O | C7H7FO2
reactant | 2,4,5-trifluorobenzonitrile | 1.59 mmol, 250 mg | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | potassium carbonate | 1.59 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ammonium chloride | 20 mL | [Cl-].[NH4+]
product | 2,5-difluoro-4-(2-methoxy-5-fluorophenoxy)benzonitrile | 444 mg, 100% | FC1=C(C#N)C=C(C(=C1)OC1=C(C=CC(=C1)F)OC)F | C14H8F3NO2
